### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): `Over.post F` preserves one-hypercovers if `F` does

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 1]
```diff
@@ -313,6 +329,37 @@ lemma _root_.CategoryTheory.CoverPreserving.overPost {D : Type*} [Category* D]
...
 
+instance {J : GrothendieckTopology C} (X : C) :
+    (Over.forget X).PreservesOneHypercovers (J.over _) J := by
+  intro Y E
+  refine ⟨?_, ?_⟩
+  · dsimp
+    rw [dsimp% PreZeroHypercover.sieve₀_map (F := Over.forget X)]
+    exact E.mem₀
+  · intro i₁ i₂ W p₁ p₂ w
+    have := congr($(w) ≫ Over.hom _)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Over.lean]:
```suggestion
    have := w =≫ Over.hom _
```

File: Mathlib/CategoryTheory/Sites/Continuous.lean [hunk 2]
```diff
@@ -64,17 +64,18 @@ namespace PreOneHypercover
...
-  f i := F.map (E.f i)
+  __ := E.toPreZeroHypercover.map F
   I₁ := E.I₁
   Y _ _ j := F.obj (E.Y j)
   p₁ _ _ j := F.map (E.p₁ j)
   p₂ _ _ j := F.map (E.p₂ j)
   w _ _ j := by simpa using F.congr_map (E.w j)
 
+lemma map_comp {D' : Type*} [Category* D'] (G : D ⥤ D') : E.map (F ⋙ G) = (E.map F).map G :=
+  rfl
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Continuous.lean:81]: Can you also add `map_id`?

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 3]
```diff
@@ -126,6 +126,22 @@ lemma overEquiv_iff {X : C} {Y : Over X} (S : Sieve Y) {Z : C} (f : Z ⟶ Y.left
...
+
+lemma overEquiv_preOneHypercover_sieve₁ {X : C} {Y : Over X} (E : PreOneHypercover.{w} Y)
+    {i₁ i₂ : E.I₀} {W : Over X} (p₁ : W ⟶ E.X i₁) (p₂ : W ⟶ E.X i₂) :
+    overEquiv W (E.sieve₁ p₁ p₂) =
+      (E.map (Over.forget X)).sieve₁ p₁.left p₂.left := by
+  ext
+  rw [overEquiv_iff]
+  refine ⟨fun ⟨k, b, hb₁, hb₂⟩ ↦ ⟨k, b.left, congr($(hb₁).left), congr($(hb₂).left)⟩, ?_⟩
+  intro ⟨k, b, hb₁, hb₂⟩
+  refine ⟨k, Over.homMk b (by simpa using congr($(hb₁) ≫ (E.X i₁).hom).symm), ?_, ?_⟩ <;>
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Over.lean]:
```suggestion
  refine ⟨k, Over.homMk b (by simpa using congr($hb₁ ≫ (E.X i₁).hom).symm), ?_, ?_⟩ <;>
```

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 4]
```diff
@@ -307,6 +323,37 @@ lemma _root_.CategoryTheory.CoverPreserving.overPost {D : Type*} [Category* D]
...
+  let E' := (E.map (Over.forget X) J).map F K
+  refine ⟨?_, ?_⟩
+  · dsimp
+    rw [PreZeroHypercover.sieve₀_map, GrothendieckTopology.mem_over_iff,
+      Sieve.functorPushforward_ofArrows, Sieve.overEquiv_ofArrows]
+    exact E'.mem₀
+  · intro i₁ i₂ W p₁ p₂ w
+    rw [GrothendieckTopology.mem_over_iff, Sieve.overEquiv_preOneHypercover_sieve₁]
+    simp_rw [← PreOneHypercover.map_comp, Over.post_forget_eq_forget_comp,
+      PreOneHypercover.map_comp]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Over.lean]:
```suggestion
    simp_rw [GrothendieckTopology.mem_over_iff, Sieve.overEquiv_preOneHypercover_sieve₁,
      ← PreOneHypercover.map_comp, Over.post_forget_eq_forget_comp, PreOneHypercover.map_comp]
```

**Comment by chrisflav** [comment]
Thanks for the review @robin-carlier !

File: Mathlib/CategoryTheory/Sites/Continuous.lean [hunk 5]
```diff
@@ -64,17 +64,22 @@ namespace PreOneHypercover
 variable {X : C} (E : PreOneHypercover X) (F : C ⥤ D)
 
 /-- The image of a 1-pre-hypercover by a functor. -/
-@[simps]
+@[simps toPreZeroHypercover Y p₁ p₂]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/Continuous.lean]: You don't want the `I₁` projection anymore?

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 6]
```diff
@@ -126,6 +126,22 @@ lemma overEquiv_iff {X : C} {Y : Over X} (S : Sieve Y) {Z : C} (f : Z ⟶ Y.left
...
+    {i₁ i₂ : E.I₀} {W : Over X} (p₁ : W ⟶ E.X i₁) (p₂ : W ⟶ E.X i₂) :
+    overEquiv W (E.sieve₁ p₁ p₂) =
+      (E.map (Over.forget X)).sieve₁ p₁.left p₂.left := by
+  ext
+  rw [overEquiv_iff]
+  refine ⟨fun ⟨k, b, hb₁, hb₂⟩ ↦ ⟨k, b.left, congr($(hb₁).left), congr($(hb₂).left)⟩, ?_⟩
+  intro ⟨k, b, hb₁, hb₂⟩
+  refine ⟨k, Over.homMk b (by simpa using congr($hb₁ ≫ (E.X i₁).hom).symm), ?_, ?_⟩ <;>
+  · ext
+    simpa
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/Over.lean]:
```suggestion
  exact ⟨k, Over.homMk b (by simpa using (hb₁ =≫ (E.X i₁).hom).symm), by cat_disch, by cat_disch⟩
```

File: Mathlib/CategoryTheory/Sites/Over.lean [hunk 7]
```diff
@@ -307,6 +323,36 @@ lemma _root_.CategoryTheory.CoverPreserving.overPost {D : Type*} [Category* D]
...
+    rwa [GrothendieckTopology.mem_over_iff, Sieve.overEquiv_preOneHypercover_sieve₁] at this
+
+set_option backward.isDefEq.respectTransparency false in
+instance {D : Type*} [Category* D] {J : GrothendieckTopology C} {K : GrothendieckTopology D}
+    (F : C ⥤ D) (X : C) [Functor.PreservesOneHypercovers.{w} F J K] :
+    Functor.PreservesOneHypercovers.{w} (Over.post F) (J.over X) (K.over _) := by
+  intro Y E
+  let E' := (E.map (Over.forget X) J).map F K
+  refine ⟨?_, ?_⟩
+  · dsimp
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/Over.lean]:
```suggestion
instance {D : Type*} [Category* D] {J : GrothendieckTopology C} {K : GrothendieckTopology D}
    (F : C ⥤ D) (X : C) [Functor.PreservesOneHypercovers.{w} F J K] :
    Functor.PreservesOneHypercovers.{w} (Over.post F) (J.over X) (K.over _) := by
  intro Y E
  let E' := (E.map (Over.forget X) J).map F K
  refine ⟨?_, ?_⟩
  · dsimp [-Over.post_obj]
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/CategoryTheory/Sites/Continuous.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Sites/Continuous.lean]: Thanks, I just missed it.

**Comment by chrisflav** [comment]
Thanks for the reviews!
bors r+
